US04988686
3-diphenylmethoxy-1-(2,2-dimethoxyethyl)-6-hydroxymethyl-4-pyridone
To a suspension of 3.33 g of 6-hydroxymethyl-3-(p-methoxybenzyl)oxy-4-pyridone in 20 ml of methanol is added 11.35 g of 2,2-dimethoxyethylamine at room temperature, and the mixture is stirred for 3 days. The reaction mixture is condensed under reduced pressure, and subjected to flash column chromatography on 100 g of Wako-Gel C-300 (manufactured by Wako Pure Chemical Industries, Ltd.) with an eluent of chloroform-methanol (20:1) to perform separation and purification. The title compound is obtained as colorless foam in a yield of 2.062 g.

reactant | 6-hydroxymethyl-3-(p-methoxybenzyl)oxy-4-pyridone | 3.33 g | OCC1=CC(C(C=N1)OCC1=CC=C(C=C1)OC)=O | C14H15NO4
reactant | 2,2-dimethoxyethylamine | 11.35 g | COC(CN)OC | C4H11NO2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | 20 ml | CO | CH4O
product | 3-diphenylmethoxy-1-(2,2-dimethoxyethyl)-6-hydroxymethyl-4-pyridone | C1(=CC=CC=C1)C(OC1=CN(C(=CC1=O)CO)CC(OC)OC)C1=CC=CC=C1 | C23H25NO5
